US04147864
15 ml of cooled 0.1 N aqueous potassium hydroxide solution are added, whilst stirring, to a solution, cooled in an ice bath, of 382 mg of 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid methyl ester in 30 ml of tetrahydrofurane. After 5 minutes, 100 ml of water and 70 ml of methylene chloride are added and the mixture is acidified by adding 10 ml of 1 N aqueous hydrochloric acid. The methylene chloride phase is separated off and the aqueous phase is extracted with 30 ml of methylene chloride. The combined organic phases are dried over sodium sulphate and concentrated by evaporation in vacuo. The residue is crystallised from chloroform/diethyl ether and gives 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid of melting point 142° C. (decomposition).

reactant | potassium hydroxide | 0.1 N | [OH-].[K+]
reactant | 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid methyl ester | 382 mg | COC(=O)[C@H]1C(=CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)OC | C17H18N2O6S
reactant | water | 100 ml | O | H2O
reactant | hydrochloric acid | 1 N, 10 ml | Cl | ClH
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N([C@H](C(=CS2)OC)C(=O)O)C1=O | C16H16N2O6S
